US05545755
Cis-(+-)-1,2,3,4-tetrahydro-8-methoxy-2-propylamino-1-naphthalenemethanol hydrochloride
The mixture of 0.99 g (4.0 mmol) of cis-(+-)-1,2,3,4-tetrahydro-8-methoxy-2-(2-propenylamino)-1-naphthalenemethanol hydrochloride, 0.5 g 10% Palladium on carbon, and 80 mL of 95% ethanol was shaken in a Parr shaker apparatus under 50 p.s.i. of hydrogen atmosphere. After 18 hours, the mixture was filtered through a Celite pad, concentrated in vacuo. The resulting oil was treated with excess HCl/MeOH and recrystallized from ethyl acetate/methanol to give pure title compound as a white solid: m.p. 233°-234° C.

reactant | cis-(+-)-1,2,3,4-tetrahydro-8-methoxy-2-(2-propenylamino)-1-naphthalenemethanol hydrochloride | 4.0 mmol, 0.99 g | Cl.COC=1C=CC=C2CC[C@@H]([C@@H](C12)CO)NCC=C
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | Cis-(+-)-1,2,3,4-tetrahydro-8-methoxy-2-propylamino-1-naphthalenemethanol hydrochloride | Cl.COC=1C=CC=C2CC[C@@H]([C@@H](C12)CO)NCCC | InChI=1S/C15H23NO2.ClH/c1-3-9-16-13-8-7-11-5-4-6-14(18-2)15(11)12(13)10-17;/h4-6,12-13,16-17H,3,7-10H2,1-2H3;1H/t12-,13-;/m0./s1
